US04414216
A mixture of 9.56 g of 1-[cis-2-(4-fluorophenyl)-tetrahydro-4-furylmethyl]-4-(2-aminoanilino)piperidine trihydrochloride and 2.0 g of potassium cyanate in 100 ml of ethanol is heated under reflux with stirring for 8 hours. The ethanol is then distilled off under reduced pressure, and 10 ml of 10% aqueous sodium hydroxide solution and 50 ml of water are added to the residue and extracted with ethyl acetate. The extract is washed with water and dried over magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue is dissolved in a small amount of ethanol, and ethanolic hydrochloric acid is added thereto. The crystals precipitated are collected by filtration and recrystallized from ethanol-water to give 1-[1-(cis-2-(4-fluorophenyl)-tetrahydro-4-furylmethyl)-4-piperidyl]benzimidazolin-2-one hydrochloride, melting at 276° C. with decomposition.

reactant | 1-[cis-2-(4-fluorophenyl)-tetrahydro-4-furylmethyl]-4-(2-aminoanilino)piperidine trihydrochloride | 9.56 g | Cl.Cl.Cl.FC1=CC=C(C=C1)[C@@H]1OC[C@@H](C1)CN1CCC(CC1)NC1=C(C=CC=C1)N
reactant | potassium cyanate | 2.0 g | [O-]C#N.[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-[1-(cis-2-(4-fluorophenyl)-tetrahydro-4-furylmethyl)-4-piperidyl]benzimidazolin-2-one hydrochloride | Cl.FC1=CC=C(C=C1)[C@@H]1OC[C@@H](C1)CN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | InChI=1S/C23H26FN3O2.ClH/c24-18-7-5-17(6-8-18)22-13-16(15-29-22)14-26-11-9-19(10-12-26)27-21-4-2-1-3-20(21)25-23(27)28;/h1-8,16,19,22H,9-15H2,(H,25,28);1H/t16-,22+;/m0./s1
